US05690957
Lauric acid 2-hydroxyethyl ester
Under cooling with ice, ethylene glycol (434 mg) was dissolved into acetone (20 ml), and pyridine (632 mg) was added thereto and then lauroyl chloride (1532 mg) was added dropwise thereto. The temperature of the solution was warmed to room temperature, and it was stirred for 2 hours. The mixture was evaporated. To the residue was added water, and the solution was extracted with ethyl acetate. The organic layer was washed with water (three times), dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (1.63 g) having the following physical data.

reactant | ethylene glycol | 434 mg | C(CO)O | C2H6O2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | lauroyl chloride | 1532 mg | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | pyridine | 632 mg | N1=CC=CC=C1 | C5H5N
product | Lauric acid 2-hydroxyethyl ester | 1.63 g | OCCOC(CCCCCCCCCCC)=O | C14H28O3
